US07683056B2
2-[3,5-Bis(trifluoromethyl)phenyl]-N-[4-(4-fluoro-2-methylphenyl)-6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-3-pyridinyl]-N,2-dimethylpropanamide hydrochloride (E31) ENANTIOMER 2
A sample of 2-[3,5-bis(trifluoromethyl)phenyl]-N-[4-(4-fluoro-2-methylphenyl)-6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-3-pyridinyl]-N,2-dimethylpropanamide (E21; 39 mg 61 μmol) was suspended in 1 ml of anhydrous diethyl ether and treated at 0° C. for 30 min with 73 μL of 1M HCl in diethyl ether. The solvent was removed under a stream of nitrogen and the product triturated with anhydrous pentane, to give, after filtration, the hydrochloride as a white solid 41 mg.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[4-(4-fluoro-2-methylphenyl)-6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-3-pyridinyl]-N,2-dimethylpropanamide | 61 μmol, 39 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CC2COCCN2CC1)(C)C)(F)F | C32H33F7N4O2
reactant | HCl | 1M, 73 μL | Cl | ClH
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | 2-[3,5-Bis(trifluoromethyl)phenyl]-N-[4-(4-fluoro-2-methylphenyl)-6-(hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl)-3-pyridinyl]-N,2-dimethylpropanamide hydrochloride | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CC2COCCN2CC1)(C)C)(F)F | InChI=1S/C32H33F7N4O2.ClH/c1-19-11-23(33)5-6-25(19)26-15-28(43-8-7-42-9-10-45-18-24(42)17-43)40-16-27(26)41(4)29(44)30(2,3)20-12-21(31(34,35)36)14-22(13-20)32(37,38)39;/h5-6,11-16,24H,7-10,17-18H2,1-4H3;1H
